US08980911B2
2,6-Dichlorobenzoic acid (10 g, 52 mmol) was added portion wise to a previously stirred mixture of nitric acid (15 mL) and sulfuric acid (30 mL) at 55° C. and stirred for 30 minutes followed by stirring at room temperature for 0.5 hour. The reaction mixture was poured into crushed ice and the precipitated off white solid was filtered, washed with water, and dried under vacuum to afford 2,6-dichloro-3-nitrobenzoic acid (7 g, 57%).

reactant | 2,6-Dichlorobenzoic acid | 52 mmol, 10 g | ClC1=C(C(=O)O)C(=CC=C1)Cl | C7H4Cl2O2
reactant | nitric acid | 15 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 30 mL | S(O)(O)(=O)=O | H2O4S
product | 2,6-dichloro-3-nitrobenzoic acid | 7 g, 57% | ClC1=C(C(=O)O)C(=CC=C1[N+](=O)[O-])Cl | C7H3Cl2NO4
